US09108928B2
Under the nitrogen atmosphere, 1.5 g of thus obtained 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate was added to 18 mL of 0.45 mol/L hydrochloric acid and dissolved therein by heating to 40 to 50° C. To the solution, 6 mL of aqueous solution containing 0.63 g of sodium hydroxide was added dropwise over 10 minutes. pH of the reaction mixture was 6.6. After the dropwise addition was completed, the reaction solution was cooled to room temperature and stirred for 1 hour. The crystal was collected by filtration and then washed with a mixture liquid containing 1.5 mL of acetone and 3.0 mL of water followed by 4.5 mL of acetone to give 0.52 g of 5-hydroxy-1H-imidazole-4-carboxamide.3/4 hydrate as a blue crystal.

reactant | 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate | O.O.Cl.OC1=C(N=CN1)C(=O)N
reactant | hydrochloric acid | 0.45 mol/L, 18 mL | Cl | ClH
reactant | sodium hydroxide | 0.63 g | [OH-].[Na+]
product | 5-hydroxy-1H-imidazole-4-carboxamide | 0.52 g | OC1=C(N=CN1)C(=O)N | C4H5N3O2
